US09119868B2
Ethyl 2-(4-chlorophenyl)-5-hydroxybenzofuran-3-carboxylate (26 g, 0.051 mol) in NMP (160 mL) was added isopropyl bromide (15 mL), then cesium carbonate (33 g, 0.101 mol) was added. The reaction mixture was stirred in a 60° C. oil bath for 20 hrs then cooled to ambient temperature. The reaction mixture was treated with 5% ammonium solution and stirred for 15 min. This mixture was then diluted with water and extracted with hexane. The organic layer was washed with water, dried with anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to give ethyl 2-(4-chlorophenyl)-5-isopropoxybenzofuran-3-carboxylate (15 g, 82%).

reactant | Ethyl 2-(4-chlorophenyl)-5-hydroxybenzofuran-3-carboxylate | 0.051 mol, 26 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C=C2)O | C17H13ClO4
reactant | isopropyl bromide | 15 mL | C(C)(C)Br | C3H7Br
reactant | cesium carbonate | 0.101 mol, 33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium | [NH4+]
solvent | NMP | 160 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | ethyl 2-(4-chlorophenyl)-5-isopropoxybenzofuran-3-carboxylate | 15 g, 82% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C=C2)OC(C)C | C20H19ClO4
